US06759429B2
Under nitrogen atmosphere, to a solution of the compound of Reference Example 5-2 (5 g) in THF (15 mL) was added KOtBu (3.07 g). Further, a solution of allyl bromide (4.51 g) in THF (9.0 mL) was added thereto, and the mixture was stirred at 45° C. for 2 hours. Water was added to the mixture, and the mixture was extracted twice with toluene. The organic layers were concentrated to give [1-(2-propenyl)-1H-pyrrol-2-yl][4-methoxyphenyl]ketone (6.00 g, 98%). To DMF (7.31 g) was added dropwise POCl3 (11.5 g) at 10° C., and the mixture was stirred for 15 minutes. To the mixture was added THF (5.41 g), and thereto was added dropise a solution of [1-(2-propenyl)-1H-pyrrol-2-yl][4-methoxyphenyl]ketone in toluene (10 mL). The mixture was stirred at room temperature for 5 hours, and thereto was added a solution of sodium acetate (11.2 g) in water (22 g), and the mixture was stirred for 3 hours. The precipitated crystals were collected by filtration, and dried to give (4-formyl-1-(2-propenyl)-1H-pyrrol-2-yl) (4-methoxyphenyl) ketone (3.31 g). The organic layer of the filtrate was collected, concentraed, and the precipitated crystals were collected by filtration, and dried (1.48 g, total 4.79 g, 71%).

reactant | DMF | 7.31 g | CN(C)C=O | C3H7NO
reactant | POCl3 | 11.5 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | [1-(2-propenyl)-1H-pyrrol-2-yl][4-methoxyphenyl]ketone | C(C=C)N1C(=CC=C1)C(=O)C1=CC=C(C=C1)OC | C15H15NO2
reactant | sodium acetate | 11.2 g | C(C)(=O)[O-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 22 g | O | H2O
solvent | THF | 5.41 g | C1CCOC1 | C4H8O
product | (4-formyl-1-(2-propenyl)-1H-pyrrol-2-yl) (4-methoxyphenyl) ketone | 3.31 g | COC1=CC=C(C=C1)C(=O)C=1N(C=C(C1)C=O)CC=C | C16H15NO3
